US04246201
Preparation of N-(methyl)-N-(3'-p-hydroxyphenylthiopropyl)-3,3-diphenylpropylamine
To a solution of 0.8 g (0.0021 moles) of N-(3'-p-hydroxyphenylthiopropyl)-3,3-diphenylpropylamine in 20 ml methanol containing 0.3 ml triethylamine are gradually added 0.13 ml (0.0021 moles) methyl iodide. After 36 hours at room temperature the solvent is evaporated under vacuum and the residue is dissolved in 20 ml benzene. The solution is washed three times with water, dried and evaporated.

reactant | N-(3'-p-hydroxyphenylthiopropyl)-3,3-diphenylpropylamine | 0.0021 moles, 0.8 g | OC1=CC=C(C=C1)SCCCNCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C24H27NOS
reactant | methyl iodide | 0.0021 moles, 0.13 ml | CI | CH3I
solvent | methanol | 20 ml | CO | CH4O
product | N-(methyl)-N-(3'-p-hydroxyphenylthiopropyl)-3,3-diphenylpropylamine | CN(CCCSC1=CC=C(C=C1)O)CCC(C1=CC=CC=C1)C1=CC=CC=C1 | C25H29NOS
